US09145354B2
(3S)—N-(2-aminoethyl)-3-{[(3-benzoyl-4-chloro-2-fluorophenyl)methyl]-amino}butanamide
Step 4 A mixture of {2-[(S)-3-(3-benzoyl-4-chloro-2-fluoro-benzylamino)-butyrylamino]-ethyl}-carbamic acid tert-butyl ester (92 mg) and 2N hydrogen chloride in ethyl acetate (2 ml) was allowed to stand at room temperature for 60 minutes. The mixture was concentrated and re-concentrated from methanol (×2). Ethyl acetate was added to the residue and a solid produced by scratching. The material was obtained by filtration and was dried in a vacuum oven furnishing the desired compound as a white solid (56.1 mg).

reactant | {2-[(S)-3-(3-benzoyl-4-chloro-2-fluoro-benzylamino)-butyrylamino]-ethyl}-carbamic acid tert-butyl ester | 92 mg | C(C)(C)(C)OC(NCCNC(C[C@H](C)NCC1=C(C(=C(C=C1)Cl)C(C1=CC=CC=C1)=O)F)=O)=O | C25H31ClFN3O4
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | (3S)—N-(2-aminoethyl)-3-{[(3-benzoyl-4-chloro-2-fluorophenyl)methyl]-amino}butanamide | 56.1 mg | NCCNC(C[C@H](C)NCC1=C(C(=C(C=C1)Cl)C(C1=CC=CC=C1)=O)F)=O | C20H23ClFN3O2
